US05102877
To a solution of 1-allyloxycarbonyl-2-methoxycarbonyl-4-trimethylsilylethynyl-3-pyrroline (2.9 g) in tetrahydrofuran (9 ml) and ethanol (36 ml), previously cooled to 5° C., was slowly added sodium borohydride (713 mg) while the internal temperature was maintained below 10° C. The mixture was stirred at 5° C. for 30 minutes and, then, at room temperature for one hour. After decomposition of the sodium borohydride with addition of a small amount of acetic acid, the reaction mixture was diluted with ethyl acetate and water. The aqueous layer was extracted with ethyl acetate twice. The organic layers were combined, washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution, water and aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was then distilled off under reduced pressure. To the residue were added tetrahydrofuran (26 ml), water (5 ml), mercuric sulfate (280 mg) and sulfuric acid (2 drops) and the mixture was stirred at room temperature for 1 day. After completion of the reaction, saturated aqueous sodium hydrogen carbonate solution and ethyl acetate were added. The aqueous layer was then separated and extracted with ethyl acetate twice. The organic layers were combined, washed successively with 1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate solution, water and aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. Finally the solvent was distilled off under reduced pressure to give 1-allyloxycarbonyl-4-acetyl-2-hydroxymethyl-3-pyrroline (2.50 g).

reactant | 1-allyloxycarbonyl-2-methoxycarbonyl-4-trimethylsilylethynyl-3-pyrroline | 2.9 g | C(C=C)OC(=O)N1C(C=C(C1)C#C[Si](C)(C)C)C(=O)OC | C15H21NO4Si
reactant | sodium borohydride | 713 mg | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 9 ml | O1CCCC1 | C4H8O
solvent | ethanol | 36 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-allyloxycarbonyl-4-acetyl-2-hydroxymethyl-3-pyrroline | 2.50 g | C(C=C)OC(=O)N1C(C=C(C1)C(C)=O)CO | C11H15NO4
